US07482366B2
6-(4-Bromo-furan-2-yl)-1-(2,4-difluoro-benzyl)-2-oxo-4-trifluoromethyl-1,2-dihydro-pyridine-3-carbonitrile (98 mg, 0.22 mmol), 2-ethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3-trifluoromethyl-pyridine (125 mg, 0.54 mmol) (or corresponding 2-ethoxy-3-trifluoromethylpyridine-5-boronic acid), potassium carbonate (149 mg, 1.08 mmol), and tetrakis(triphenylphosphine)palladium (0) (25 mg, 0.1 mmol) were mixed with 2.5 ml 9:1 DME/H2O (v/v), then heated at 80° C. overnight. All solvent was removed in vacuo. The crude product was purified by column chromatography on silica gel (10→30% EtOAC/Hexane, 0.25% Et3N in hexane) to give 1-(2,4-difluoro-benzyl)-6-[4-(6-ethoxy-5-trifluoromethyl-pyridin-3-yl)-furan-2-yl]-2-oxo-4-trifluoromethyl-1,2-dihydro-pyridine-3-carbonitrile as a yellow solid (29 mg, 37% yield). 1H-NMR (400 MHz, CDCl3): δ 1.45 (t, 3H, J=7.07), 4.53 (q, 2H, J=7.07), 5.58 (s, 2H), 6.83 (s, 1H), 6.84 (m, 1H), 6.87 (m, 1H), 7.04 (d, 1H, J=0.76), 7.13 (m, 1H), 7.87 (d, 1H, J=2.27), 7.90 (d, 1H, J=0.76), 8.38 (d, 1H, J=2.27).

reactant | 6-(4-Bromo-furan-2-yl)-1-(2,4-difluoro-benzyl)-2-oxo-4-trifluoromethyl-1,2-dihydro-pyridine-3-carbonitrile | 0.22 mmol, 98 mg | BrC=1C=C(OC1)C1=CC(=C(C(N1CC1=C(C=C(C=C1)F)F)=O)C#N)C(F)(F)F | C18H8BrF5N2O2
reactant | 2-ethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3-trifluoromethyl-pyridine | 0.54 mmol, 125 mg | C(C)OC1=NC=C(C=C1C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C14H19BF3NO3
reactant | 2-ethoxy-3-trifluoromethylpyridine-5-boronic acid | C(C)OC1=NC=C(C=C1C(F)(F)F)B(O)O | C8H9BF3NO3
reactant | potassium carbonate | 1.08 mmol, 149 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.1 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME H2O | COCCOC.O
product | 1-(2,4-difluoro-benzyl)-6-[4-(6-ethoxy-5-trifluoromethyl-pyridin-3-yl)-furan-2-yl]-2-oxo-4-trifluoromethyl-1,2-dihydro-pyridine-3-carbonitrile | 29 mg, 37% yield | FC1=C(CN2C(C(=C(C=C2C=2OC=C(C2)C=2C=NC(=C(C2)C(F)(F)F)OCC)C(F)(F)F)C#N)=O)C=CC(=C1)F | C26H15F8N3O3
